US09315491B2
4-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-benzene-1,2-diamine
A mixture of 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-2-nitro-phenylamine (0.69 g, 1.0 eq.) and Pd/C (Cat.) in MeOH/EA (10 ml/10 ml) was prepared. The mixture was sharked and H2 gas was injected to the mixture for 4-6 hrs at room temperature. The mixture was filtered with Celite 454 and dried in vacuo to give a black sold (0.65 g, 99.9%) as a product.

reactant | 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-2-nitro-phenylamine | 0.69 g, 1.0 eq. | COC=1C(=NC(=NC1)C1=CC(=C(C=C1)N)[N+](=O)[O-])N1CCOCC1 | C15H17N5O4
solvent | MeOH EA | 10 ml | CO.CC(OCC)=O
catalyst | Pd/C | [Pd] | Pd
product | 4-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-benzene-1,2-diamine | COC=1C(=NC(=NC1)C=1C=C(C(=CC1)N)N)N1CCOCC1 | C15H19N5O2
